US07317027B2
(ii) 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid
0.195 g (1.1 mmol) of 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid methyl ester was dissolved in 4 mL of DMF and 48.7 mg (1.2 mmol) of sodium hydride (60% in mineral oil) was added. The reaction was stirred at RT for 20 min, cooled to −78° C. then 324 mg (1.2 mmol) of 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole [prepared by adopting a procedure described by Ewing, William R.; Becker, Michael R.; Choi-Sledeski, Yong Mi; Pauls, Heinz W.; He, Wei; Condon, Stephen M.; Davis, Roderick S.; Hanney, Barbara A.; Spada, Alfred P.; Burns, Christopher J.; Jiang, John Z.; Li, Aiwen; Myers, Michael R; Lau, Wan F.; Poli, Gregory B; PCT Int. Appl. (2001) 460 pp. WO 0107436 A2] was added. The reaction was allowed to warm to RT overnight. 0.3 mL of 2N aqueous sodium hydroxide was added and the reaction was stirred at RT for 24 h. The product was purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). After lyophilization the product was obtained as a solid.

reactant | 1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid methyl ester | 1.1 mmol, 0.195 g | COC(=O)C1=CC=2C(=NC=CC2)N1 | C9H8N2O2
reactant | sodium hydride | 1.2 mmol, 48.7 mg | [H-].[Na+]
reactant | 3-bromomethyl-5-(5-chloro-thiophen-2-yl)-isoxazole | 1.2 mmol, 324 mg | BrCC1=NOC(=C1)C=1SC(=CC1)Cl | C8H5BrClNOS
reactant | sodium hydroxide | 2N, 0.3 mL | [OH-].[Na+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 1-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-1H-pyrrolo[2,3-b]pyridine-2-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1C(=CC=2C1=NC=CC2)C(=O)O | C16H10ClN3O3S
